US05807846
2,4,6-Triisopropylbenzylamine
A mixture of N-(2,4,6-triisopropylbenzyl)phthalimide (4.62 g, 13.7 mmol), hydrazine hydrate (0.5 mL), and methanol (150 mL) was heated on the steambath for 3 hours, at which time 0.3 mL more hydrazine hydrate was added. The reaction mixture was allowed to stand overnight at room temperature. Methanol (150 mL) was added and heated on the steambath. The methanol was removed on the rotary evaporator without heating. The reaction mixture was diluted with water (300 mL) and extracted with dichloromethane (1×200 mL and 1×100 mL), the extracts were combined, dried (magnesium sulfate), filtered, and concentrated. The residue was filtered through silica using ethyl acetate as eluant. The product was obtained as an oil, 1.93 g, (65%).

reactant | N-(2,4,6-triisopropylbenzyl)phthalimide | 13.7 mmol, 4.62 g | C(C)(C)C1=C(CN2C(C=3C(C2=O)=CC=CC3)=O)C(=CC(=C1)C(C)C)C(C)C | C24H29NO2
reactant | hydrazine hydrate | 0.5 mL | O.NN
reactant | hydrazine hydrate | 0.3 mL | O.NN
solvent | Methanol | 150 mL | CO | CH4O
solvent | methanol | 150 mL | CO | CH4O
product | 2,4,6-Triisopropylbenzylamine | C(C)(C)C1=C(CN)C(=CC(=C1)C(C)C)C(C)C | C16H27N
